data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_419268_0,[C:1]([C:3](/[C:2](=[C:5](\[N:4]([H:10])[H:11])[H:12])[O:6][H:8])[N:7][H:9])([H:13])([H:14])[H:15]>>[C:1]([C:3]1=[C:2]([O:6][H:8])[C@@:5]([N:4]([H:10])[H:11])([H:12])[N:7]1[H:9])([H:13])([H:14])[H:15],51.92750749998012
MR_289982_0,[C:1]([C@:6]12[N:4]([H:11])[C:5]1([O:9][H:10])[C:7]([C:2]([H:15])([H:16])[H:20])([C:3]([H:17])([H:18])[H:19])[C:8]2([H:21])[H:22])([H:12])([H:13])[H:14]>>[C:1]([C:6]([N:4]([C:5](=[C:7]([C:2]([H:15])([H:16])[H:20])[C:3]([H:17])([H:18])[H:19])[O:9][H:10])[H:11])=[C:8]([H:21])[H:22])([H:12])([H:13])[H:14],41.52481249999184
MR_49906_1,[C:1]([C:3]([N:5]([H:10])[H:11])=[O:8])(/[C:4](=[C:6](/[C:2]([H:15])([H:16])[H:17])[H:14])[O:7][H:9])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C:4]([C:3]([N:5]([H:10])[H:11])=[O:8])([O:7][H:9])[C:6]1([C:2]([H:15])([H:16])[H:17])[H:14],68.74827249995818
MR_212045_0,[C:1]1([H:11])([H:12])[C:3](=[O:8])[O:7][C:4]([N:6]([H:9])[H:10])=[C:5]1[C:2]([H:13])([H:14])[H:15]>>[C:1]1([H:11])([H:12])[C:3](=[O:8])[C@:5]1([C:2]([H:13])([H:14])[H:15])[C:4]([N:6]([H:9])[H:10])=[O:7],40.93747249997662
MR_363938_1,[N:1]([N:2]([C:4](=[O:5])[H:10])[H:7])([N:3]([H:8])[H:9])[H:6]>>[N:1](\[N:2]([C:4]([O:5][H:9])([H:6])[H:10])[H:7])=[N:3]/[H:8],70.87612500000759
MR_48393_2,[C:1]([C:4]([C:2]([C:6]1([C:5]([H:17])([H:18])[H:19])[C:3]([H:13])([H:14])[C:7]1([H:20])[H:21])([O:9][H:10])[H:12])([H:15])[H:16])(=[O:8])[H:11]>>[C:1]1([C:4]([C:2]([C:6]([C:5]([H:17])([H:18])[H:19])=[C:7]([H:20])[H:21])([O:9][H:10])[H:12])([H:15])[H:16])([H:11])[C:3]([H:13])([H:14])[O:8]1,69.48432999999028
MR_385141_1,[C:1]([C:3]([H:15])([H:16])[H:17])([N:7]([C:4]([C:2]([H:12])([H:13])[H:14])=[O:6])[N:5]([H:8])[H:9])([H:10])[H:11]>>[C:1]([C:3]([H:15])([H:16])[H:17])([O:6]/[C:4]([C:2]([H:12])([H:13])[H:14])=[N:7]/[N:5]([H:8])[H:9])([H:10])[H:11],68.6855225000096
MR_302438_0,[C:1]([C:2]([H:11])([H:12])[H:13])([N:3]([O:6][H:9])[H:10])([O:4][H:7])[O:5][H:8]>>[C:1]([C:2]([H:11])([H:12])[H:13])([N:3]([O:5][H:8])[H:10])([O:4][H:7])[O:6][H:9],68.47781999999896
MR_398753_0,[C:1](/[C:4](=[N:3]/[N:6]([H:11])[H:12])[C:5]([C:2]([H:17])([H:18])[H:19])([C:7](=[O:9])[H:13])[O:8][H:10])([H:14])([H:15])[H:16]>>[C:1](/[C:4]([N:3]([N:6]([H:11])[H:12])[C:7](=[O:9])[H:13])=[C:5](/[C:2]([H:17])([H:18])[H:19])[O:8][H:10])([H:14])([H:15])[H:16],56.368952499966696
MR_583579_0,[C:1]([C:2]([O:6][O:7][H:8])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[N:5]([H:9])[H:10]>>[C:1]([C:2]([N:5]([H:9])[H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[O:6][O:7][H:8],70.22980000003429
MR_426175_0,[C:1]([N:2]([O:4][H:6])[H:8])([N:3]([H:10])[H:11])([O:5][H:7])[H:9]>>[C:1]([N:2]([N:3]([H:10])[H:11])[H:8])([O:4][H:6])([O:5][H:7])[H:9],71.91024500000054
MR_538960_0,[C:1]([C:3]([H:14])([H:15])[H:16])([N:4]([C:2]([H:11])([H:12])[H:13])[O:7][H:9])([O:5][O:6][H:8])[H:10]>>[C:1]([C:3]([H:14])([H:15])[H:16])([O:5][N:4]([C:2]([H:11])([H:12])[H:13])[O:7][H:9])([O:6][H:8])[H:10],56.99833500001844
MR_240309_0,[C:1]([N:3]([H:8])[H:9])([O:5]/[C:2]([N:4]([H:10])[H:11])=[N:6]/[H:12])=[O:7]>>[C:1]([N:3]([H:8])[H:9])([N:6]([C:2]([N:4]([H:10])[H:11])=[O:5])[H:12])=[O:7],26.629217500004216
MR_328107_0,[C:1](/[C:3]([N:2]([N:4]([H:8])[H:9])[H:7])=[C:6](\[N:5]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[C:3](=[N:2]\[N:4]([H:8])[H:9])[C:6]([N:5]([H:10])[H:11])([H:7])[H:12])([H:13])([H:14])[H:15],54.921937499981794
MR_329237_1,[C:1]([C:2]([H:15])([H:16])[H:17])([N:5]([H:9])[H:10])([N:6]([H:11])[H:12])/[N:8]=[C:4](/[C:3]([H:18])([H:19])[H:20])[N:7]([H:13])[H:14]>>[C:1](\[C:2]([H:15])([H:16])[H:17])([N:5]([H:9])[H:10])=[N:8]/[C:4]([C:3]([H:18])([H:19])[H:20])([N:6]([H:11])[H:12])[N:7]([H:13])[H:14],49.47335500004115
MR_259236_1,[C:1](\[C:2]([O:6][C:4]([C:3]([H:15])([H:16])[H:17])([O:8][H:11])[H:10])([H:13])[H:14])(=[N:5]/[H:12])[O:7][H:9]>>[C:1]([C:2]([O:6][C:4]([C:3]([H:15])([H:16])[H:17])=[O:8])([H:13])[H:14])([N:5]([H:11])[H:12])([O:7][H:9])[H:10],41.52606749998867
MR_405290_1,[C:1](=[C:3]([C:2]([N:4]([H:11])[H:12])(/[C:5](=[N:8]\[H:13])[H:16])[O:6][H:9])[O:7][H:10])([H:14])[H:15]>>[C:1](/[C:3](=[C:2](/[N:4]([H:11])[H:12])[O:6][H:9])[O:7][H:10])(/[C:5](=[N:8]\[H:13])[H:16])([H:14])[H:15],66.72207499997313
MR_68233_1,[C:1]([N:5]([C:6]([C:2]([H:13])([H:14])[H:15])=[O:9])[N:8]=[C:7]([C:3]([H:17])([H:18])[H:19])[C:4]([H:16])([H:20])[H:21])([H:10])([H:11])[H:12]>>[C:1]([N:5][N:8][C:7]([C:3]([H:17])([H:18])[H:19])([C:4]([H:16])([H:20])[H:21])[C:6]([C:2]([H:13])([H:14])[H:15])=[O:9])([H:10])([H:11])[H:12],56.00374749996135
MR_168454_0,[C:1]([C:3]([C:4]([C:2]([H:12])([H:13])[H:14])=[O:7])=[O:6])([N:5]([H:8])[H:9])([H:10])[H:11]>>[C:1]([C@@:4]1([C:2]([H:12])([H:13])[H:14])[C:3]([O:6])[O:7]1)([N:5]([H:8])[H:9])([H:10])[H:11],51.64826999997175
MR_320490_0,[C:1]([O:3][O:2][O:4][H:6])([O:5][H:7])([H:8])[H:9]>>[C:1]([O:2][O:4][H:6])([O:3][O:5][H:7])([H:8])[H:9],69.06767000000784
